US04882348
The procedure of Example 1 wherein 1-(3,5-difluorobenzyl)-2-mercaptoimidazole is replaced by 1-(4-chlorophenyl)-2-mercaptoimidazole yields 2-(2-aminoethylthio)-1-(4-chlorophenyl)imidazole.

reactant | 1-(3,5-difluorobenzyl)-2-mercaptoimidazole | FC=1C=C(CN2C(=NC=C2)S)C=C(C1)F | C10H8F2N2S
reactant | 1-(4-chlorophenyl)-2-mercaptoimidazole | ClC1=CC=C(C=C1)N1C(=NC=C1)S | C9H7ClN2S
product | 2-(2-aminoethylthio)-1-(4-chlorophenyl)imidazole | NCCSC=1N(C=CN1)C1=CC=C(C=C1)Cl | C11H12ClN3S
